US05442070
3 g of sodium carbonate are added to a solution of 3.48 g of 2-chloro-3-ethoxycarbonyl-6,7-difluoroquinoline, prepared as described in Application Example 1, and 3 g of N-cyclopropyl-N-(b-ethoxycarbonylethyl)amine in 10 cm3 of toluene. The suspension obtained is heated to reflux and then stirred for 15 hours at this temperature. The reaction mixture is then cooled to approximately 20° C. and 30 cm3 of water and 4.5 cm3 of acetic acid are thereafter added. After settling has taken place, the reaction mixture is separated and washed with twice 10 cm3 of water. The organic phase is concentrated to dryness under reduced pressure (20 kPa) at approximately 50° C. 3.3 g of crude 3-ethoxycarbonyl-6,7-difluoro-2-[N-cyclopropyl-N-(b-ethoxycarbonylethyl)amino]quinoline are obtained in the form of an oil, which is used without further purification for the subsequent step.

reactant | sodium carbonate | 3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-3-ethoxycarbonyl-6,7-difluoroquinoline | 3.48 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)OCC)F)F | C12H8ClF2NO2
reactant | N-cyclopropyl-N-(b-ethoxycarbonylethyl)amine | 3 g | C1(CC1)NCCC(=O)OCC | C8H15NO2
reactant | water | 30 cm3 | O | H2O
solvent | toluene | 10 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 4.5 cm3 | C(C)(=O)O | C2H4O2
product | 3-ethoxycarbonyl-6,7-difluoro-2-[N-cyclopropyl-N-(b-ethoxycarbonylethyl)amino]quinoline | 3.3 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1)F)F)N(CCC(=O)OCC)C1CC1 | C20H22F2N2O4
